US06066658
4,5-Dihydro-2-methyl-8-methylthiothieno[3,4-g]benzoxazole-6-carboxylic acid (0.47 g) was suspended in tetrahydrofuran (15 ml); oxalyl chloride (0.32 g) and then N,N-dimethylformamide (6 μl) were added. After this mixture was stirred at room temperature for 2 hours, it was concentrated under reduced pressure. The residue was suspended in tetrahydrofuran (5 ml) and cooled with ice; concentrated aqueous ammonia (4.0 ml) was added. After the reaction mixture was stirred at room temperature for 1 hour, it was poured over water (150 ml) and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off to yield 4,5-dihydro-2-methyl-8-methylthiothieno[3,4-g]benzoxazole-6-carboxamide (0.27 g, 57%), which was then recrystallized from chloroform-methanol. Light-yellow needles. Melting point over 300° C.

reactant | 4,5-Dihydro-2-methyl-8-methylthiothieno[3,4-g]benzoxazole-6-carboxylic acid | 0.47 g | CC=1OC2=C(N1)CCC=1C2=C(SC1C(=O)O)SC | C12H11NO3S2
reactant | oxalyl chloride | 0.32 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 6 μl | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-2-methyl-8-methylthiothieno[3,4-g]benzoxazole-6-carboxamide | 0.27 g, 57% | CC=1OC2=C(N1)CCC=1C2=C(SC1C(=O)N)SC | C12H12N2O2S2
